US04461895
582 mg. (1.85 mmol) (+)-5,6,6a,7-Tetrahydro-1,9-dihydroxy-2,10-dimethoxy-4H-dibenzo(de,g)quinoline are dissolved in 10 ml. dimethylformamide. After the addition of 385 mg. (4.58 mmol) sodium bicarbonate and 0.2 ml. (279.6 mg.; 2.31 mmol) allyl bromide, the reaction mixture is stirred for 30 minutes at ambient temperature and thereafter heated under reflux for 2 hours. Subsequently, the solvent is evaporated off in a vacuum and the residue is partitioned between chloroform and water. After working up and crystallising from chloroform/diethyl ether, there is obtained (+)-6-allyl-5,6,6a,7-tetrahydro-1,9-dihydroxy-2,10-dimethoxy-4H-dibenzo(de,g)quinoline; m.p. 161°-171° C.

reactant | (+)-5,6,6a,7-Tetrahydro-1,9-dihydroxy-2,10-dimethoxy-4H-dibenzo(de,g)quinoline | 1.85 mmol | OC1=C(C=C2CCNC3CC4=C(C1=C23)C=C(C(=C4)O)OC)OC | C18H19NO4
reactant | sodium bicarbonate | 4.58 mmol | C([O-])(O)=O.[Na+]
reactant | allyl bromide | 2.31 mmol, 279.6 mg | C(C=C)Br | C3H5Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (+)-6-allyl-5,6,6a,7-tetrahydro-1,9-dihydroxy-2,10-dimethoxy-4H-dibenzo(de,g)quinoline | C(C=C)N1CCC=2C3=C(C4=C(CC13)C=C(C(=C4)OC)O)C(=C(C2)OC)O | C21H23NO4
